US05149717
b) 5-(4-acetyl-3-hydroxy-2-propylphenylthio)-pentyl-triphenylphosphonium bromide
The title compound is prepared analogously to Example 1 from 5-(4-acetyl-3-hydroxy-2-propylphenylthio)-pentyl bromide and triphenylphosphine.

reactant | 5-(4-acetyl-3-hydroxy-2-propylphenylthio)-pentyl bromide | C(C)(=O)C1=C(C(=C(C=C1)SCCCCCBr)CCC)O | C16H23BrO2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-(4-acetyl-3-hydroxy-2-propylphenylthio)-pentyl-triphenylphosphonium bromide | [Br-].C(C)(=O)C1=C(C(=C(C=C1)SCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)O | InChI=1S/C34H37O2PS.BrH/c1-3-16-32-33(24-23-31(27(2)35)34(32)36)38-26-15-7-14-25-37(28-17-8-4-9-18-28,29-19-10-5-11-20-29)30-21-12-6-13-22-30;/h4-6,8-13,17-24H,3,7,14-16,25-26H2,1-2H3;1H
